US06509335B1
Step (f): Preparation of 2-(3-Cyanophenyl)-3,4-dihydro-2H-1,4-benzoxazin-3-one
To the benzoxazinone (I6) (1.38 g, 4.17 mmol) in DMF (5 mL) was added potassium carbonate (1.40 g, 10.1 mmol), and the solution was stirred at room temperature for 1 hour. The solution was diluted with water and extracted with ethyl acetate (3×150 mL). The combined organic extracts were washed with brine (2×100 mL), dried with magnesium sulfate filtered, and evaporated in vacuo. The residue was purified on a silica gel column eluted with 25% ethyl acetate in dichloromethane. The product (I1) was isolated 0.48 g (46%) as a light orange solid.

reactant | benzoxazinone | 4.17 mmol, 1.38 g | O1NC(CC2=C1C=CC=C2)=O | C8H7NO2
reactant | potassium carbonate | 10.1 mmol, 1.40 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-(3-Cyanophenyl)-3,4-dihydro-2H-1,4-benzoxazin-3-one | C(#N)C=1C=C(C=CC1)C1OC2=C(NC1=O)C=CC=C2 | C15H10N2O2
